US06730678B2
4-[4-(2-pyrrolylcarbonyl)-1-piperazinyl]-3-trifluoromethylbenzoylguanidine hydrochloride
15.1 g of 4-[4-(2-pyrrolylcarbonyl)-1-piperazinyl]-3-trifluoromethylbenzoylguanidine is taken up in 151 mL of methanol and the resulting suspension is cooled to about 10° C. 16 mL of a saturated ethereal HCl solution are added to this suspension which is thus acidified to a pH of between 1 and 2. Stirring is continued, while cooling with ice, until crystallization is complete. The crystals are suction filtered, washed with cold methanol, and then with cold diethyl ether. Yield: 16.19 g; melting point: 223° C. (uncorrected).

reactant | 4-[4-(2-pyrrolylcarbonyl)-1-piperazinyl]-3-trifluoromethylbenzoylguanidine | 15.1 g | N1C(=CC=C1)C(=O)N1CCN(CC1)C1=C(C=C(C(=O)NC(=N)N)C=C1)C(F)(F)F | C18H19F3N6O2
reactant | HCl | 16 mL | Cl | ClH
solvent | methanol | 151 mL | CO | CH4O
product | 4-[4-(2-pyrrolylcarbonyl)-1-piperazinyl]-3-trifluoromethylbenzoylguanidine hydrochloride | Cl.N1C(=CC=C1)C(=O)N1CCN(CC1)C1=C(C=C(C(=O)NC(=N)N)C=C1)C(F)(F)F | InChI=1S/C18H19F3N6O2.ClH/c19-18(20,21)12-10-11(15(28)25-17(22)23)3-4-14(12)26-6-8-27(9-7-26)16(29)13-2-1-5-24-13;/h1-5,10,24H,6-9H2,(H4,22,23,25,28);1H
